US04629727
A solution of 1-(3,4-dichlorophenyl)-1-cyclobutanecarbonitrile (28.5 g) in dry ether (200 ml) was added dropwise in a nitrogen atmosphere to a stirred mixture of lithium aluminium hydride (6.5 g) and dry ether (200 ml). The mixture was stirred at room temperature for two hours then it was cooled to 10° C. Water (12 ml) and then 15% aqueous sodium hydroxide solution (12 ml) and then water (36 ml) were added. The mixture was filtered through diatomaceous earth (trade name CELITE). The filter was washed with ether and the combined ether phases were washed with water and dried. Hydrogen chloride gas was passed into the solution to give [1-(3,4-dichlorophenyl)cyclobutyl]methylamine hydrochloride (m.p. 271°-272° C.).

reactant | 1-(3,4-dichlorophenyl)-1-cyclobutanecarbonitrile | 28.5 g | ClC=1C=C(C=CC1Cl)C1(CCC1)C#N | C11H9Cl2N
reactant | lithium aluminium hydride | 6.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 12 ml | O | H2O
reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
reactant | water | 36 ml | O | H2O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | [1-(3,4-dichlorophenyl)cyclobutyl]methylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1(CCC1)CN | InChI=1S/C11H13Cl2N.ClH/c12-9-3-2-8(6-10(9)13)11(7-14)4-1-5-11;/h2-3,6H,1,4-5,7,14H2;1H
